US05159095
a) Preparation of 1,1,1-Triethyl-3-acetoxy-1-silapropane
To a solution of 6.39 mL (40 mmol) of Et3SiH and 3.69 mL (40 mmol) of vinyl acetate in 40 mL of toluene is added 61.3 mg (0.16 mmol) of Rh2Cl2 (CO)4. Caution: the reaction evolves heat and gas. Within about 5 min, the reaction mixture darkens in color. Reaction is judged complete by TLC analysis (10% EtOAc in cyclohexane) after 1 h. The reaction is worked up and purified, if desired, as in example 1a.

reactant | Et3SiH | 40 mmol, 6.39 mL | [SiH](CC)(CC)CC | C6H16Si
reactant | vinyl acetate | 40 mmol, 3.69 mL | C(C)(=O)OC=C | C4H6O2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 1,1,1-Triethyl-3-acetoxy-1-silapropane | C(C)[Si](CCOC(C)=O)(CC)CC | C10H22O2Si
